US08729263B2
To a solution of 4-methoxy-3-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol (490 mg, 1.32 mmol) in DCM (8 mL) was added triethylamine (0.461 mL, 3.31 mmol) at RT. The reaction mixture was cooled to 0° C., followed by addition of N-phenyltrifluoromethanesulfonimide (472 mg, 1.32 mmol). The reaction mixture was warmed to RT and stirred for two hours then quenched with aqueous sodium bicarbonate solution and extracted with DCM. The organic layer was dried over sodium sulfate, filtered and concentrated to give the crude product which was adjusted to pH 3 using 1 M HCl aqueous solution and loaded onto an SCX column. The crude product was washed with methanol then eluted with 2 N ammonia in methanol. The product fractions were collected and dried to afford 4-methoxy-3-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate (665 mg) MS [M+H+]=503.2.

reactant | 4-methoxy-3-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol | 1.32 mmol, 490 mg | COC1=C(C=C(C=C1)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C21H30N4O2
reactant | triethylamine | 3.31 mmol, 0.461 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 1.32 mmol, 472 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | HCl | 1 M | Cl | ClH
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 4-methoxy-3-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate | 665 mg | FC(S(=O)(=O)OC1=CC(=C(C=C1)OC)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)(F)F | C22H29F3N4O4S
